US08710059B2
N-(4-Methoxymethyl-phenyl)-4-methoxy-3-piperazin-1-yl-benzenesulfonamide trifluoroacetate
The product was obtained as described in Example 1 by reaction of N-(4-methoxymethyl-phenyl)-4-methoxy-3-[4-(2,2,2-trifluoro-acetyl)piperazin-1-yl]-benzenesulfonamide with aqueous sodium hydroxide.

reactant | N-(4-methoxymethyl-phenyl)-4-methoxy-3-[4-(2,2,2-trifluoro-acetyl)piperazin-1-yl]-benzenesulfonamide | COCC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)N1CCN(CC1)C(C(F)(F)F)=O | C21H24F3N3O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(4-Methoxymethyl-phenyl)-4-methoxy-3-piperazin-1-yl-benzenesulfonamide trifluoroacetate | FC(C(=O)O)(F)F.COCC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)N1CCNCC1 | InChI=1S/C19H25N3O4S.C2HF3O2/c1-25-14-15-3-5-16(6-4-15)21-27(23,24)17-7-8-19(26-2)18(13-17)22-11-9-20-10-12-22;3-2(4,5)1(6)7/h3-8,13,20-21H,9-12,14H2,1-2H3;(H,6,7)
